US07241791B2
7-chloro-3-(4-methoxy-2-methylphenyl)-1H-indazole
Prepared according to Method D Step A from [2-fluoro-3-chlorophenyl](4-methoxy-2-methylphenyl)methanone (1.26 g, 4.52 mmol), hydrazine hydrate (1.61 mL, 51.7 mmol) and DMAP (0.632 g, 5.17 mmol) to give the product (0.613 g) as a yellow solid.

reactant | [2-fluoro-3-chlorophenyl](4-methoxy-2-methylphenyl)methanone | 4.52 mmol, 1.26 g | FC1=C(C=CC=C1Cl)C(=O)C1=C(C=C(C=C1)OC)C | C15H12ClFO2
reactant | hydrazine hydrate | 51.7 mmol, 1.61 mL | O.NN
catalyst | DMAP | 5.17 mmol, 0.632 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-chloro-3-(4-methoxy-2-methylphenyl)-1H-indazole | 0.613 g | ClC=1C=CC=C2C(=NNC12)C1=C(C=C(C=C1)OC)C | C15H13ClN2O
